US08048909B2
[5-Phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrol-3-yl]methanol
Using methyl 5-phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carboxylate (3.0 g), and a 1.5 mol/L solution (16.1 mL) of diisobutylaluminum hydride in toluene, a procedure as in Reference Example 5 was performed to give the title compound as a pale-red oil (yield 2.73 g, 95%).

reactant | methyl 5-phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carboxylate | 3.0 g | C1(=CC=CC=C1)C1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC)CCC | C21H21NO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-Phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrol-3-yl]methanol | yield 2.73 g, 95% | C1(=CC=CC=C1)C1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)CO)CCC | C20H21NO3S
